US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-5-methoxycarbonyl-1-[4-(pyridin-4-yl)benzoyl]-1,2,3,4-tetrahydropyrazine
In N,N-dimethylformamide (1 ml), 1-[(6-chloronaphthalen-2-yl)sulfonyl]-6-methoxycarbonyl-1,2,3,4-tetrahydropyrazine (60 mg) and p-nitrophenyl 4-(pyridin-4-yl)benzoate (52 mg) were dissolved, followed by the addition of sodium hydride (60% in oil, 7.20 mg) under ice cooling. The resulting mixture was stirred for 1 hour. Water and ethyl acetate were added to the reaction mixture to separate the organic layer. The organic layer was dried over anhydrous magnesium sulfate and the solvent was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (ethyl acetate:hexane=2:1), followed by dissolution in ethanol. To the resulting solution, 1N aqueous hydrochloric acid in ethanol was added and the resulting mixture was concentrated, whereby the title compound (58 mg, 60%) was obtained as pale yellow powder.

reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-6-methoxycarbonyl-1,2,3,4-tetrahydropyrazine | 60 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNC=C1C(=O)OC | C16H15ClN2O4S
reactant | p-nitrophenyl 4-(pyridin-4-yl)benzoate | 52 mg | N1=CC=C(C=C1)C1=CC=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H12N2O4
reactant | sodium hydride | 7.20 mg | [H-].[Na+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-5-methoxycarbonyl-1-[4-(pyridin-4-yl)benzoyl]-1,2,3,4-tetrahydropyrazine | 58 mg, 60% | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(C=C1C(=O)OC)C(C1=CC=C(C=C1)C1=CC=NC=C1)=O | C28H22ClN3O5S
